US07807676B2
Part B: To a solution of benzyl 4-(3,3-diethoxypropanoyl)piperazine-1-carboxylate (3.39 g, 9.30 mmol) in 30 mL of chloroform at 0° C. was added a solution of 10.0 mL of water and 10.0 mL of trifluoroacetic acid, and the resulting biphasic mixture was stirred at 25° C. for 20 h. The mixture then was diluted with additional chloroform, washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. The residue then was dissolved in 50 mL of ethanol. To this solution was added 2-hydrazinopyridine (1.015 g, 9.30 mmol) and methanesulfonic acid (0.060 mL, 0.930 mmol), and the resulting mixture was stirred at 25° C. for 18 h. Pyridine (1.00 mL) was added, and then the reaction mixture was concentrated under vacuum. The residue was dissolved in 50 mL of pyridine. To this solution was added phosphorous oxychloride (1.73 mL, 18.6 mmol), and the mixture was stirred at 25° C. for 20 h. The mixture was concentrated under vacuum. The residue was diluted with water and ethyl acetate, and the phases were separated. The organic phase was washed with water and brine, dried over anhydrous sodium sulfate, filtered, and concentrated. Column chromatography on silica gel (elution: 10-50% ethyl acetate/methylene chloride) afforded 0.38 g (11.2%) of benzyl 4-(1-(pyridin-2-yl)-1H-pyrazol-5-yl)piperazine-1-carboxylate as an oil; Mass Spec.: m/e: 364.20 (M+H)+ [calc'd: 364.18]; 1H NMR (500 MHz, DMSO-D6) δ 8.53 (d, 1H, J=5.0 Hz), 7.97 (t, 1H, J=8.0 Hz), 7.73 (d, 1H, J=8.0 Hz), 7.58 (s, 1H), 7.40-7.30 (m, 6H), 6.04 (s, 1H), 5.10 (s, 2H), 3.49 (m, 4H), 2.94 (m, 4H).

reactant | benzyl 4-(3,3-diethoxypropanoyl)piperazine-1-carboxylate | 9.30 mmol, 3.39 g | C(C)OC(CC(=O)N1CCN(CC1)C(=O)OCC1=CC=CC=C1)OCC | C19H28N2O5
reactant | trifluoroacetic acid | 10.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-hydrazinopyridine | 9.30 mmol, 1.015 g | N(N)C1=NC=CC=C1 | C5H7N3
reactant | methanesulfonic acid | 0.930 mmol, 0.060 mL | CS(=O)(=O)O | CH4O3S
reactant | phosphorous oxychloride | 18.6 mmol, 1.73 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | chloroform | 30 mL | C(Cl)(Cl)Cl | CHCl3
solvent | Pyridine | 1.00 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 10.0 mL | O | H2O
product | benzyl 4-(1-(pyridin-2-yl)-1H-pyrazol-5-yl)piperazine-1-carboxylate | 0.38 g, 11.2% | N1=C(C=CC=C1)N1N=CC=C1N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C20H21N5O2
